US07772221B2
Step AE (3): N-((1R,2S)-2-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-yl)-2,2,2-trifluoroacetamide (650 mg) in methanol (15 mL) was added saturated potassium carbonate (570 mg), and the resulting solution was heated at 73° C. for 12 h. The reaction mixture was filtered through a pad of Celite to give, and the filtrate was evaporated in vacuo to give (1R,2S)-2-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-amine as a solid. HPLC Retention time: 1.34 min (method B). MS (ESI) (M+H)+ 220.27.

reactant | N-((1R,2S)-2-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-yl)-2,2,2-trifluoroacetamide | 650 mg | C(C=C)O[C@@H]1[C@@H](C2=CC(=CC=C2C1)OC)NC(C(F)(F)F)=O | C15H16F3NO3
reactant | potassium carbonate | 570 mg | C([O-])([O-])=O.[K+].[K+]
solvent | methanol | 15 mL | CO | CH4O
product | (1R,2S)-2-(allyloxy)-6-methoxy-2,3-dihydro-1H-inden-1-amine | C(C=C)O[C@@H]1[C@@H](C2=CC(=CC=C2C1)OC)N | C13H17NO2
